US07728129B2
Hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-methanesulfonic acid sodium salt
A solution of 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde (20.0 g, 76.9 mmol) in EtOH (200 mL) was stirred at room temperature for 15 min. To the resulting solution was added a solution of NaHSO3 (9.6 g) in H2O (25 mL), dropwise over 30 min. The resulting suspension was stirred at room temperature for 2 h, then cooled to 0° C. and stirred for 3 h, adding EtOH periodically (total 200 mL) to aid stirring. A precipitate formed and was collected by suction filtration through a glass frit lined with filter paper. The filter cake was washed with hexane (1×50 mL), and dried under vacuum for 16 h to yield the title compound as a white solid.

reactant | 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde | 76.9 mmol, 20.0 g | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
reactant | NaHSO3 | 9.6 g | OS(=O)[O-].[Na+]
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | H2O | 25 mL | O | H2O
product | Hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-methanesulfonic acid sodium salt | [Na+].OC(S(=O)(=O)[O-])C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C | InChI=1S/C15H22N2O5S.Na/c1-11(2)16-7-9-17(10-8-16)14(18)12-3-5-13(6-4-12)15(19)23(20,21)22;/h3-6,11,15,19H,7-10H2,1-2H3,(H,20,21,22);/q;+1/p-1
